US04975439
A mixture of 10 parts of 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-one, 9.42 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4piperidinyl)benzamide, 1 part of a solution of thiophene in methanol 4% and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried in vacuo at 60° C., yielding 9.33 parts (62.6%) of cis-4-amino-5-chloro-N-[1-(3,3-dimethyl-1,5-dioxaspiro[5.5]undec-9-yl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 187.5° C. (compound 92).

reactant | 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-one | CC1(COC2(OC1)CCC(CC2)=O)C | C11H18O3
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | platinum-on-charcoal | [Pt] | Pt
product | cis-4-amino-5-chloro-N-[1-(3,3-dimethyl-1,5-dioxaspiro[5.5]undec-9-yl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide | 62.6% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)C2CCC3(OCC(CO3)(C)C)CC2)OC)C=C1Cl)OC | C25H38ClN3O5
